US03996303
1 mole of 7-chloro-3,7-dimethyl-3-octenyl acetate was dissolved into 200 milliliters of dioxane and the solution was subjected to hydrogenation reaction in a reactor containing 20 grams of activated palladium black at about 25° C. under normal pressure until hydrogen was no more absorbed. Then, palladium black was filtered off, from the reaction mixture and dioxane was distilled off from the filtrate under reduced pressure. The residual liquid was added to the solution of 40 grams of sodium hydroxide in 200 milliliters of methanol, and heated under reflux for 72 hours. The resulting reaction mixture was diluted with 1200 milliliters of water, and the oil layer was separated from the aqueous layer. The oil layer thus separated was washed with 200 milliliters of water three times and then dried over 20 grams of Glauber's salt (sodium sulfate). By distillation of the oil layer under reduced pressure a fraction having a boiling point range of 110°-118° C./15mmHg was collected, whereby 0.7 mole of citronellol was obtained.

reactant | 7-chloro-3,7-dimethyl-3-octenyl acetate | 1 mole | C(C)(=O)OCCC(=CCCC(C)(C)Cl)C | C12H21ClO2
reactant | dioxane | 200 milliliters | O1CCOCC1 | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | water | 1200 milliliters | O | H2O
catalyst | palladium black | 20 grams | [Pd] | Pd
product | citronellol | 0.7 mole | CC(C)=CCCC(C)CCO | C10H20O
